US07329678B2
Using the procedure of step (b) in Example 15, utilizing 2-amino-5-(4-fluorophenyl)nicotinaldehyde and 2,3-diaminotoluene gave 5-(4-fluorophenyl)-3-(4-methyl-1H-benzimidazol-2-yl)pyridin-2-amine.

reactant | 2-amino-5-(4-fluorophenyl)nicotinaldehyde | NC1=C(C=O)C=C(C=N1)C1=CC=C(C=C1)F | C12H9FN2O
reactant | 2,3-diaminotoluene | NC1=C(C=CC=C1N)C | C7H10N2
product | 5-(4-fluorophenyl)-3-(4-methyl-1H-benzimidazol-2-yl)pyridin-2-amine | FC1=CC=C(C=C1)C=1C=C(C(=NC1)N)C1=NC2=C(N1)C=CC=C2C | C19H15FN4
